US04810708
Saponify 7-ethoxycarbonyl-10-(3-chlorophenyl)-6,7,8,9-tetrahydrobenzo[b][1,8]naphthyridin-5(10H)-one (7.1 g) with potassium hydroxide (1.10 g) in a solvent of ethanol and water (142 ml, 9:1 by volume). After 21 hours at 25° C., add water (200 ml), cool the resulting solution in ice, and acidify (pH 2) the solution with concentrated hydrochloric acid. Collect the resulting precipitate on a filter, and crystallize it from ethanol to provide 7-carboxy-10-(3-chlorophenyl)-6,7,8,9-tetrahydrobenzo[b][1,8]naphthyridin-5(10H)-one, m.p. 279°-280.5° C.

reactant | 7-ethoxycarbonyl-10-(3-chlorophenyl)-6,7,8,9-tetrahydrobenzo[b][1,8]naphthyridin-5(10H)-one | 7.1 g | C(C)OC(=O)C1CC2=C(N(C=3N=CC=CC3C2=O)C2=CC(=CC=C2)Cl)CC1 | C21H19ClN2O3
reactant | potassium hydroxide | 1.10 g | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 142 ml | O | H2O
product | 7-carboxy-10-(3-chlorophenyl)-6,7,8,9-tetrahydrobenzo[b][1,8]naphthyridin-5(10H)-one | C(=O)(O)C1CC2=C(N(C=3N=CC=CC3C2=O)C2=CC(=CC=C2)Cl)CC1 | C19H15ClN2O3
